US08809525B2
Step 2: Preparation of 1-[4-(methoxymethyl)phenyl]ethanone
4-(Methoxymethyl)benzonitrile (6.0 g, 40.82 mmol) was dissolved in THF/diethyl ether (1:1, 60 mL) and the resulting solution was cooled to −10° C. 3 M solution of methyl magnesium iodide (13.57 g, 81.63 mmol) was added and the resulting mixture was stirred at this temperature for 5 hours. After completion of the reaction (TLC; toluene/methanol, 97:3), the mixture was poured into acidified water (50 mL; pH 3-4) and extracted with ethyl acetate (3×50 mL). The separated organic layers were combined, dried over Na2SO4 and concentrated in vacuo. The crude compound was purified by gradient flash chromatography, eluting with 8% ethyl acetate in hexane to afford the target compound (3.7 g, 55%).

reactant | 4-(Methoxymethyl)benzonitrile | 40.82 mmol, 6.0 g | COCC1=CC=C(C#N)C=C1 | C9H9NO
reactant | methyl magnesium iodide | 81.63 mmol, 13.57 g | C[Mg]I
reactant | toluene methanol | C1(=CC=CC=C1)C.CO
reactant | water | 50 mL, pH 3-4 | O | H2O
solvent | THF diethyl ether | 60 mL | C1CCOC1.C(C)OCC
product | 1-[4-(methoxymethyl)phenyl]ethanone | 3.7 g, 55% | COCC1=CC=C(C=C1)C(C)=O | C10H12O2
